US07153971B2
To a suspension of D-glucose (36.0 g, 200.0 mmol) and Bn2NH (39.5 g, 200.0 mmol) in absolute EtOH (200 mL) was added AcOH (12.0 g, 200.0 mmol). Upon refluxing for 3 h, the reaction mixture was cooled and filtered with suction. The resulting filter cake was washed with EtOH to colorless and dried in a desiccator over calcium chloride to give 1-dibenzylamino-1-deoxy-D-fructose as a white solid (57.0 g, 79%).

reactant | D-glucose | 200.0 mmol, 36.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Bn2NH | 200.0 mmol, 39.5 g | N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C14H15N
reactant | AcOH | 200.0 mmol, 12.0 g | CC(=O)O | C2H4O2
solvent | EtOH | 200 mL | CCO | C2H6O
product | 1-dibenzylamino-1-deoxy-D-fructose | 57.0 g, 79% | C(C1=CC=CC=C1)N(CC(=O)[C@@H](O)[C@H](O)[C@H](O)CO)CC1=CC=CC=C1 | C20H25NO5
